US07612075B2
4-[4-(6-Chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperazin-1-ylmethyl]-benzamidine
Hydrogen chloride gas is bubbled into an ice-cooled solution of 4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperazin-1-ylmethyl]-benzonitrile (100 mg, 0.264 mmol), (prepared by deprotecting 4-(4-cyanobenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester, EXAMPLE 66, Part A, followed by alkylation with 6-chloro-2-chloromethylbenzimidazole) in 15 mL of methanol. The solution contained 3Å molecular sieves. The reaction mixture is stored at −30° C. The methanol is removed on the rotovap. Fresh methanol (20 ml) is added folowed by a stream of ammonia gas. The resulting mixture is heated to reflux for three hours. The reaction mixture is filtered at room temperature. The mother liquor is condensed and the resulting residue is purified by reverse phase HPLC (0-50% ACN/H2O). The product is isolated as a white solid with a melting point of 91-95° C. MS C20H21ClN6O m/z: 397, 399. Anal. cald. for C20H21ClN6O.3C2HF3O2: C, 42.26; H, 3.27; N, 11.37. Found C, 42.20; H, 3.44; N, 11.36.

reactant | 4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperazin-1-ylmethyl]-benzonitrile | 0.264 mmol, 100 mg | ClC=1C=CC2=C(NC(=N2)CN2CC(N(CC2)CC2=CC=C(C#N)C=C2)=O)C1 | C20H18ClN5O
reactant | 4-(4-cyanobenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)=O | C20H19N3O3
reactant | 6-chloro-2-chloromethylbenzimidazole | ClC=1C=CC2=C(N=C(N2)CCl)C1 | C8H6Cl2N2
solvent | methanol | 15 mL | CO | CH4O
product | 4-[4-(6-Chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperazin-1-ylmethyl]-benzamidine | ClC=1C=CC2=C(NC(=N2)CN2CC(N(CC2)CC2=CC=C(C(=N)N)C=C2)=O)C1 | C20H21ClN6O
